US04446325
Ammonia gas was passed through a mixture of 19 g of 2,2-ethylenedioxypropyl acetoacetate and 100 ml of methanol for 2.5 hours under ice-cooling while stirring. The solvent was then distilled off and the residue was distilled under reduced pressure to obtain 16 g (84% yield) of 2,2-ethylenedioxypropyl 3-aminocrotonate as a pale yellow oil having a boiling point of 120° C. (5 mmHg).

reactant | Ammonia | N | H3N
reactant | 2,2-ethylenedioxypropyl acetoacetate | 19 g | C(CC(=O)C)(=O)OCC1(C)OCCO1 | C9H14O5
solvent | methanol | 100 ml | CO | CH4O
product | 2,2-ethylenedioxypropyl 3-aminocrotonate | 16 g, 84% yield | N\C(=C/C(=O)OCC1(C)OCCO1)\C | C9H15NO4
